US04886835
The procedure is as in Example 2, starting with diethyl 5-allylthio-2-dimethylamino-2,4-hexadienedioate (5.1 g) and 1N aqueous hydrochloric acid solution (24.4 cc) in ethanol (24.4 cc). The mixture is heated to boiling for 3 minutes, and then cooled to a temperature in the region of 20° C. After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (75:25 by volume) as eluent, diethyl 5-allylthio-2-hydroxy-2,4-hexadienedioate (2.3 g) is obtained in the form of a yellow oil [Rf=0.2; thin layer chromatography on silica gel; eluent: cyclohexane/ethyl acetate (75:25 by volume)].

reactant | diethyl 5-allylthio-2-dimethylamino-2,4-hexadienedioate | 5.1 g | C(C=C)SC(=CC=C(C(=O)OCC)N(C)C)C(=O)OCC | C15H23NO4S
reactant | hydrochloric acid | 1N, 24.4 cc | Cl | ClH
reactant | ethanol | 24.4 cc | C(C)O | C2H6O
product | diethyl 5-allylthio-2-hydroxy-2,4-hexadienedioate | 2.3 g | C(C=C)SC(=CC=C(C(=O)OCC)O)C(=O)OCC | C13H18O5S
